US05434150
2-(4-Benzyloxycarbonylamidino-phenyl)-5-[(1,2-bis-benzyloxycarbonyl-ethyl)-aminocarbonyl]-1-methyl-benzimidazole
Prepared from 2-(4-benzyloxycarbonylamidino-phenyl)-1-methyl-benzimidazole-4-carboxylic acid and dibenzyl aspartate with the addition of 2-(1H-benztriazol-1-yl)-1,1,3,3-tetramethyluronium-tetrafluoroborate in tetrahydrofuran.

reactant | 2-(4-benzyloxycarbonylamidino-phenyl)-1-methyl-benzimidazole-4-carboxylic acid | C(C1=CC=CC=C1)OC(=O)NC(=N)C1=CC=C(C=C1)C1=NC2=C(N1C)C=CC=C2C(=O)O | C24H20N4O4
reactant | dibenzyl aspartate | N[C@@H](CC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C18H19NO4
reactant | 2-(1H-benztriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C.F[B-](F)(F)F
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(4-Benzyloxycarbonylamidino-phenyl)-5-[(1,2-bis-benzyloxycarbonyl-ethyl)-aminocarbonyl]-1-methyl-benzimidazole | C(C1=CC=CC=C1)OC(=O)NC(=N)C1=CC=C(C=C1)C1=NC2=C(N1C)C=CC(=C2)C(=O)NC(CC(=O)OCC2=CC=CC=C2)C(=O)OCC2=CC=CC=C2 | C42H37N5O7
